US09260442B2
tert-butyl N-[[1-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]cyclopentyl]methyl]carbamate is synthesized by treating 5-Bromo-2,4-dichloropyrimidine with tert-butyl N-[(1-aminocyclopentyl)methyl]carbamate using similar experimental conditions as described for the synthesis of tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]ethyl]carbamate. LCMS (ESI) 405 (M+H)

reactant | 5-Bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-[(1-aminocyclopentyl)methyl]carbamate | NC1(CCCC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]ethyl]carbamate | BrC=1C(=NC(=NC1)Cl)NCCNC(OC(C)(C)C)=O | C11H16BrClN4O2
product | tert-butyl N-[[1-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]cyclopentyl]methyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC1(CCCC1)CNC(OC(C)(C)C)=O | C15H22BrClN4O2
